US07939666B2
Stage 3: (S)-3-((S)-1-Cyclopentyloxycarbonyl-3-methyl-butylcarbamoyl)-7-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
(S)-7-Nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tert-butyl ester (2.5 g, 7.76 mmol) was dissolved in DCM (100 ml). HOBt (1.16 g, 8.53 mmol) was added, L-leucine cyclopentyl ester (3.19 g, 8.53 mmol) was added followed by triethylamine (2.38 ml, 17.1 mmol). EDCl.HCl (1.46 g, 8.5 mmol) was added and the reaction stirred at room temperature for 16 h. To the reaction was added DCM (100 ml) and the organic layer washed with water (3×300 ml), dried with Na2SO4 and the solvent removed in vacuo. The crude product was purified by chromatography (EtOAc:heptane 1:2→EtOAc) to give the required product 3.14 g (82% yield), LCMS purity 100%, m/z 504 [M++H]+

reactant | (S)-7-Nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tert-butyl ester | 7.76 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)O)[N+](=O)[O-] | C15H18N2O6
reactant | HOBt | 8.53 mmol, 1.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | L-leucine cyclopentyl ester | 8.53 mmol, 3.19 g | C1(CCCC1)OC([C@@H](N)CC(C)C)=O | C11H21NO2
reactant | triethylamine | 17.1 mmol, 2.38 ml | C(C)N(CC)CC | C6H15N
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 8.5 mmol, 1.46 g | Cl | ClH
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-((S)-1-Cyclopentyloxycarbonyl-3-methyl-butylcarbamoyl)-7-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 3.14 g, 82% yield | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(N[C@@H](CC(C)C)C(=O)OC1CCCC1)=O)[N+](=O)[O-] | C26H37N3O7
